US06589970B2
Bromine (7.0 mL, 0.137 mol) in 100 mL of glacial HOAc was added under nitrogen dropwise over 4 h to a solution of 6-methoxy-naphthalene-2-carbonitrile (25.02 g, 0.137 mol) in 700 mL of glacial HOAc at room temperature. After the addition the reaction was stirred at room temperature overnight. The solid that formed was collected by filtration, rinsed with glacial HOAc and dried under reduced pressure to give 5-bromo-6-methoxy-naphthalene-2-carbonitrile (31.35 g, 88%) as a white solid, mp 177-178° C.

reactant | Bromine | 0.137 mol, 7.0 mL | BrBr | Br2
reactant | 6-methoxy-naphthalene-2-carbonitrile | 0.137 mol, 25.02 g | COC=1C=C2C=CC(=CC2=CC1)C#N | C12H9NO
solvent | HOAc | 100 mL | CC(=O)O | C2H4O2
solvent | HOAc | 700 mL | CC(=O)O | C2H4O2
product | 5-bromo-6-methoxy-naphthalene-2-carbonitrile | 31.35 g, 88% | BrC1=C2C=CC(=CC2=CC=C1OC)C#N | C12H8BrNO
